US08802853B2
Tris(dibenzylideneacetone)dipalladium(0) chloroform adduct (62.1 mg, 0.03 eq.), 4-iodobenzonitrile (0.50 g, 0.11 eq.), triethylamine (0.61 g, 3 eq.), and copper (I) iodide (23 mg, 0.06 eq.) were added sequentially to a solution of 2-ethyl-1-(2-propynyl)-1H-imidazo[4,5-c]quinolin-4-amine (0.5 g, 2.0 mmol, 1.0 eq) in DMF. The reaction mixture was stirred at ambient temperature for 3.5 hours. The reaction mixture was concentrated under reduced pressure to provide crude product which was purified by column chromatography (silica gel eluting with 5/95 methanol/dichloromethane). The residue was purified by recrystallization from 1,2-dichloroethane to provide 60 mg of 4-[3-(4-amino-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1-propynyl]benzonitrile hydroiodide as a brown powder, mp 180-241° C. (dec). 1H NMR (300 MHz, DMSO-d6) δ 13.23 (br s, 1H), 8.47 (d, J=8.1 Hz, 1H), 8.44 (br, 2H), 7.82 (m, 3H), 7.69 (t, J=7.2 Hz, 1H), 7.60 (t, J=7.1 Hz, 1H), 7.54 (d, J=8.7 Hz, 2H), 5.84 (s, 2H), 3.13 (q, J=7.4 Hz, 2H), 1.42 (t, J=7.4 Hz, 3H); MS m/z 352 (M+H)+; Anal. calcd for C22H17N5.HI.0.09 1,2-dichloroethane: C, 54.50; H, 3.79; N, 14.33. Found: C, 54.54; H, 3.59; N, 14.26.

reactant | 4-iodobenzonitrile | 0.50 g, 0.11 eq. | IC1=CC=C(C#N)C=C1 | C7H4IN
reactant | triethylamine | 0.61 g, 3 eq. | C(C)N(CC)CC | C6H15N
reactant | 2-ethyl-1-(2-propynyl)-1H-imidazo[4,5-c]quinolin-4-amine | 2.0 mmol, 0.5 g, 1.0 eq | C(C)C=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CC#C | C15H14N4
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | Tris(dibenzylideneacetone)dipalladium(0) chloroform adduct | 62.1 mg, 0.03 eq. | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
catalyst | copper (I) iodide | 23 mg, 0.06 eq. | [Cu]I
product | 4-[3-(4-amino-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1-propynyl]benzonitrile hydroiodide | 60 mg | I.NC1=NC=2C=CC=CC2C2=C1N=C(N2CC#CC2=CC=C(C#N)C=C2)CC | InChI=1S/C22H17N5.HI/c1-2-19-26-20-21(17-7-3-4-8-18(17)25-22(20)24)27(19)13-5-6-15-9-11-16(14-23)12-10-15;/h3-4,7-12H,2,13H2,1H3,(H2,24,25);1H
